US04360700
Until the present invention, 1-(3-benzyloxyphenyl)-1,1-dimethylheptane was prepared from methyl 3-hydroxybenzoate as described in U.S. Pat. No. 4,285,867, issued Aug. 25, 1981. The overall sequence comprised benzylation of the phenolic group to produce methyl 3-benzyloxybenzoate followed by reaction of said ether ester with methyl magnesium iodide to give 3-benzyloxybenzene-2-propanol. Reaction of the thus-produced propanol derivative with hydrochloric acid afforded 2-(3-benzyloxyphenyl)-2-chloropropane which was then reacted with n-hexylmagnesium bromide to provide 1-(3-benzyloxyphenyl)-1,1-dimethylheptane.

reactant | 1-(3-benzyloxyphenyl)-1,1-dimethylheptane | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CCCCCC)(C)C | C22H30O
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
product | methyl 3-benzyloxybenzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1 | C15H14O3
